US07060664B2
1-(7-sec-Butylidene-bicyclo[2.2.1]hept-2-yl)-ethanone
4 Isomers in a ratio of 1:1.5:2.9:2.8. Odor description: Woody, floral, linalool, Vertofix, ambery. 1H-NMR (CDCl3, 400 MHz): 3.01–2.44 (m, 3H), 2.15/2.11/2.10 (4s, 3H), 2.11–2.82 (m, 3H), 1.69/1.65/1.63/1.62 (4s, 3H), 1.65–1.20 (m, 5H), 1.02–0.91 (m, 3H) ppm. GC/MS (EI): (major isomer): 192 (M+, 16), 163 (9), 149 (48), 134 (41), 121 (57), 107 (54), 93 (92), 79 (52), 43 (100). IR (atr): 2960s, 2870m, 1707vs, 1453w, 1356m, 1172s, 960w cm−1.

reactant | linalool | C=CC(O)(C)CCC=C(C)C | C10H18O
reactant | Vertofix | CC1CCC2C13CC(C2(C)C)C(=C(C3)C(=O)C)C | C17H26O
product | 1-(7-sec-Butylidene-bicyclo[2.2.1]hept-2-yl)-ethanone | C(C)(CC)=C1C2C(CC1CC2)C(C)=O | C13H20O
